US04740513
6-(5-Chloro-4-cyano-2-methylimidazol-1-yl)-8-methyl-2-(1H)-quinolone
A mixture of 6-(5-chloro-4-iodo-2-methylimidazol-1-yl)-8-methyl-2-(1H)quinolone (1.0 g), cuprous cyanide (0.45 g) and palladium acetate (0.09 g) in 1-methyl-2-pyrrolidone (5 cm3) was stirred and heated at 160° for 4 hours. The cooled mixture was poured into aqueous ammonia solution (30 cm3 ; S.G. 0.880) and extracted with ethyl acetate (3×150 cm3). The combined and dried (MgSO4) organic extracts were filtered and evaporated in vacuo and the residue was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]) eluting with methanol:dichloromethane, 1:200 by volume. Combination and evaporation of the appropriate fractions afforded the title compound as a solid (0.54 g) which was characterised spectroscopically and used directly without further purification.

reactant | 6-(5-chloro-4-iodo-2-methylimidazol-1-yl)-8-methyl-2-(1H)quinolone | 1.0 g | ClC1=C(N=C(N1C=1C=C2C=CC(NC2=C(C1)C)=O)C)I | C14H11ClIN3O
reactant | ammonia | 30 cm3 | N | H3N
reactant | 1-methyl-2-pyrrolidone | 5 cm3 | CN1C(CCC1)=O | C5H9NO
catalyst | palladium acetate | 0.09 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-(5-Chloro-4-cyano-2-methylimidazol-1-yl)-8-methyl-2-(1H)-quinolone | 0.54 g | ClC1=C(N=C(N1C=1C=C2C=CC(NC2=C(C1)C)=O)C)C#N | C15H11ClN4O
